US08835472B2
N-(1-(4-((2-Chloropyrimidin-5-yl)ethynyl)phenyl)propan-2-yl)acetamide
To 3.30 g (16.4 mmol) N-(1-(4-ethynylphenyl)propan-2-yl)acetamide (I58.3) in 40 mL THF are added 2.44 g (16.4 mmol) 2,4-dichloropyrimidine, 57.5 mg (82.0 μmol) bis(triphenyphosphine)dichloropalladium and 9.10 mL (65.7 mmol) TEA. The reaction mixture is stirred under reflux for 4 h and at r.t. over night. The reaction mixture is filtrated and the solvent is removed in vacuo. The residue is triturated with water and afterwards with diethylether.

reactant | N-(1-(4-ethynylphenyl)propan-2-yl)acetamide | 16.4 mmol, 3.30 g | C(#C)C1=CC=C(C=C1)CC(C)NC(C)=O | C13H15NO
reactant | 2,4-dichloropyrimidine | 16.4 mmol, 2.44 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
catalyst | bis(triphenyphosphine)dichloropalladium | 82.0 μmol, 57.5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-(1-(4-((2-Chloropyrimidin-5-yl)ethynyl)phenyl)propan-2-yl)acetamide | ClC1=NC=C(C=N1)C#CC1=CC=C(C=C1)CC(C)NC(C)=O | C17H16ClN3O
